US09340527B2
A solution of 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde (500 mg, 1.6 mmol), AcOH (288 mg, 4.8 mmol, 3.0 eq) and ethyl 4-methylpiperidine-4-carboxylate (410 mg, 2.4 mmol, 1.5 eq) in DCM (5 mL) was stirred at room temperature for 10 min. Then NaBH3CN (300 mg, 4.8 mmol, 3.0 eq) was added. The reaction mixture was stirred at room temperature for 12 h, quenched with water (5 mL) and extracted with DCM (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (Petroleum ether:ethyl acetate=3:1) to give ethyl 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylate (480 mg, yield: 30%) as a yellow oil. ESI-MS (M+1)+: 466.2. 1HNMR (400 MHz, CDCl3) δ: 7.75˜7.73 (m, 3H), 7.48 (d, 1H), 7.18˜7.15 (m, 2H), 4.28˜4.26 (m, 1H), 4.19˜4.12 (q, 2H), 4.01 (s, 2H), 3.17˜3.15 (m, 2H), 2.59 (br, 2H), 2.29˜2.17 (m, 4H), 1.91˜1.82 (m, 4H), 1.46˜1.43 (m, 3H), 1.30˜1.18 (m, 8H), 0.88 (s, 9H).

reactant | 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde | 1.6 mmol, 500 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | AcOH | 4.8 mmol, 288 mg, 3.0 eq | CC(=O)O | C2H4O2
reactant | ethyl 4-methylpiperidine-4-carboxylate | 2.4 mmol, 410 mg, 1.5 eq | CC1(CCNCC1)C(=O)OCC | C9H17NO2
reactant | NaBH3CN | 4.8 mmol, 300 mg, 3.0 eq | [BH3-]C#N.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylate | 480 mg, yield: 30% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)OCC)C | C30H43NO3
